US03954754
EXAMPLE 47: 6-Benzoyl-5,6,7,8-tetrahydro-3-(1-methylhydrazino)pyrido[4,3-c]pyridazine
A solution of 3.4 g of 6-benzoyl-5,6,7,8-tetrahydro-3-mercaptopyrido[4,3-c]pyridazine in 40 cc of methylhydrazine is stirred at a bath temperature of 110° for 11/2 hours. The oil obtained after concentrating the mixture in a vacuum is taken up in absolute ethanol, and the calculated amount of gentisic acid is added. After standing for some time the crystalline bisgentisinate of the title compound is obtained. M.P. 166°-168° (decomp.).

reactant | 6-benzoyl-5,6,7,8-tetrahydro-3-mercaptopyrido[4,3-c]pyridazine | 3.4 g | C(C1=CC=CC=C1)(=O)N1CC2=C(N=NC(=C2)S)CC1 | C14H13N3OS
reactant | methylhydrazine | 40 cc | CNN | CH6N2
product | 6-Benzoyl-5,6,7,8-tetrahydro-3-(1-methylhydrazino)pyrido[4,3-c]pyridazine | C(C1=CC=CC=C1)(=O)N1CC2=C(N=NC(=C2)N(N)C)CC1 | C15H17N5O
